US07456169B2
4-(4-chloro-2-methoxybenzyl)pyridine
A mixture of 1-bromomethyl-4-chloro-2-methoxy-benzene (50 mg, 0.21 mmol), 4-pyridyl boronic acid (39 mg, 0.32 mmol), Pd(PPh3)4 (24 mg, 0.021 mmol) and 2M Na2CO3 were combined in DME (2 mL), purged with N2, and heated to reflux for 3 hours. The mixture was then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel with 1:1 hexanes/ethyl acetate to provide 17 mg (33%) of the title compound. MS (ESI) m/e 234 (M+H)+.

reactant | 1-bromomethyl-4-chloro-2-methoxy-benzene | 0.21 mmol, 50 mg | BrCC1=C(C=C(C=C1)Cl)OC | C8H8BrClO
reactant | 4-pyridyl boronic acid | 0.32 mmol, 39 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.021 mmol, 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-chloro-2-methoxybenzyl)pyridine | 17 mg, 33% | ClC1=CC(=C(CC2=CC=NC=C2)C=C1)OC | C13H12ClNO
